US05110956
5-(2-Hydroxyethyl)-2-methyl-1,3-benzodioxole
A suspension of 1.0 g of 3,4-dihydroxyphenylacetic acid, 1.4 g of vinyl acetate, 6 mg of mercury oxide (yellow) and 0.03 ml of boron fluoride/ethyl etherate in 9 ml of toluene was stirred at room temperature for 14 h. The reaction mixture was diluted with ethyl acetate and washed with water and an aqueous common salt solution The organic layer was dried over magnesium sulfate and the solvent was distilled off. An oil thus obtained was dissolved in 10 ml of tetrahydrofuran and the solution was added dropwise to a suspension of 0.5 g of lithium aluminum hydride in tetrahydrofuran under cooling with ice. The mixture was stirred at room temperature for 1 h. 0.5 ml of water, then 0.5 ml of a 15% aqueous sodium hydroxide solution and finally 1.5 ml of water were added thereto and an insoluble matter was filtered off. The filtrate was concentrated and treated according to silica gel column chromatography (ethyl acetate/hexane=1:1) to obtain 0.8 g of the intended compound in the form of a colorless oil.

reactant | 3,4-dihydroxyphenylacetic acid | 1.0 g | OC=1C=C(C=CC1O)CC(=O)O | C8H8O4
reactant | vinyl acetate | 1.4 g | C(C)(=O)OC=C | C4H6O2
reactant | lithium aluminum hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | mercury oxide | 6 mg | [Hg]=O
solvent | water | 1.5 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
product | 5-(2-Hydroxyethyl)-2-methyl-1,3-benzodioxole | 0.8 g | OCCC1=CC2=C(OC(O2)C)C=C1 | C10H12O3
